US06180622B2
A 1.69 M n-butyllithium/n-hexane solution (7.4 ml) is added dropwise to a solution of 1.56 g of 3-methylimidazo[5,1-b]thiazole in 25 ml of dry THF over a period of 10 min while maintaining the temperature at −70° C. or below, and the mixture is stirred at that temperature for 2 hr. A solution of 3.54 g of (3R,5S)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-formylpyrrolidine in 15 ml of THF is gradually added dropwise to the mixed solution, the temperature is raised from −70° C. to 0° C. over a period of 3 hr, the mixture is stirred at 0° C. for 2 hr and at room temperature for 2 hr. Water is added to the reaction solution, and the mixture is extracted three times with ethyl acetate. The organic layer is washed twice with saturated saline, dried over anhydrous magnesium sulfate, and filtered, and the solvent is removed by evaporation under reduced pressure to give a crude product which is then successively purified by column chromatography on silica gel (ethyl acetate) and on Sephadex LH-20 (dichloromethane:methanol=1:1) to give 2.74 g of (3R,5S)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-[1-hydroxy-1-(3-methylimidazo[5,1-b]thiazol-2-yl)methyl]pyrrolidine (a diastereomer mixture) as a colorless amorphous material.

reactant | n-butyllithium n-hexane | 1.69 M, 7.4 ml | C(CCC)[Li].CCCCCC
reactant | 3-methylimidazo[5,1-b]thiazole | 1.56 g | CC=1N2C(SC1)=CN=C2 | C6H6N2S
reactant | (3R,5S)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-formylpyrrolidine | 3.54 g | C(C=C)OC(=O)N1C[C@@H](C[C@H]1C=O)O[Si](C)(C)C(C)(C)C | C15H27NO4Si
reactant | Water | O | H2O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | (3R,5S)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-[1-hydroxy-1-(3-methylimidazo[5,1-b]thiazol-2-yl)methyl]pyrrolidine | 2.74 g | C(C=C)OC(=O)N1C[C@@H](C[C@H]1C(C1=C(N2C(S1)=CN=C2)C)O)O[Si](C)(C)C(C)(C)C | C21H33N3O4SSi
